* EQ Filter

V1 vi 0 PULSE(-1 1 0 20m 1u 1u 20m)
* V1 vi 0 AC 1
R33 vi va8 4.75k
R37 vo10 va8 4.75k
R35 va8 vo 4.75k
R40 vo v33 3.5k ; {1k + lg*25k} ; var "gain"
R39 vi v33 23.5k ; {1k + (1-lg)*25k} ; var "gain"
R66 vo10 v33 12k
R41 v33 0 1.8k
R38 v33 0 4.7k
R44 vn9 0 1k
R47 v36 va10 750
R48 va10 vo10 3.3k
R43 va9 v36 25.1k ; {5.1k + lf*50k} ; var "LF"
C18 va9 v36 33n IC=0
C19 va9 v36 47n IC=0
R45 vn9 vr45 1k
C20 vr45 v36 100u IC=0
R42 v37 va9 24.3k ; {4.3k + lf*50k} ; var "LF"
C16 v33 v37 33n IC=0
C17 v33 v37 47n IC=0

E8 vo 0 va8 0 1e6
E9 v36 0 va9 vn9 1e6
E10 vo10 0 va10 0 1e6

Escaled vo_scaled 0 value = {V(vo)*0.5} ; netlist_skip

.tran 0 80m 0 1.0u
* .ac dec 100 10 20k
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo_scaled)
.options plotwinsize=0
.backanno
.end
